US07569589B2
To a mixture of 2-bromo-6-methoxy-pyridine (5.00 g, 26.59 mmol) in anhydrous THF (100 mL) @ −78° C. under N2 was added n-BuLi (11.701 mL, 2.5 M) dropwise. The mixture was stirred for 20 min and 6-Bromo-2-pyridine carboxaldehyde (4.95 g, 26.93 mmol was added. The mixture was warmed to 0° C. and stirred for 1 hr. The resulting mixture was quenched with saturated aqueous NH4Cl, and extracted 3× with EtOAc. The combined organics were dried (anhd. Na2SO4), filtered, and concentrated. The residue was purified by silica gel chromatography (15% EtOAc in hexanes) to give (6-bromopyridin-2-yl)(6-methoxypyridin-2-yl)methanol. 1H NMR (500 MHz, CDCl3) δ 7.60-7.49 (m, 3H), 7.37 (dd, 1H, J=7.1, 1.5), 7.12 (d, 1H, J=7.3), 6.64 (d, 1H, J=8.3), 5.78 (d, 1H, J=5.4), 5.27 (d, 1H, J=5.4), 3.97 (s, 3H), LRMS m/z, (M+H) Calcd.: 295.0, found 295.1.

reactant | 2-bromo-6-methoxy-pyridine | 26.59 mmol, 5.00 g | BrC1=NC(=CC=C1)OC | C6H6BrNO
reactant | n-BuLi | 2.5 M, 11.701 mL | [Li]CCCC
reactant | 6-Bromo-2-pyridine carboxaldehyde | BrC1=CC=CC(=N1)C=O | C6H4BrNO
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | (6-bromopyridin-2-yl)(6-methoxypyridin-2-yl)methanol | BrC1=CC=CC(=N1)C(O)C1=NC(=CC=C1)OC | C12H11BrN2O2
